US09024027B2
Step 2: Preparation of (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(4-(2-morpholinoethyl)-2,3-dioxo-3,4-dihydroquinoxalin-1(2H)-yl)acetoxy)ethyl)pyridine 1-oxide (37)
To a solution of (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(2,3-dioxo-3,4-dihydroquinoxalin-1(2H)-yl)acetoxy)-ethyl)pyridine 1-oxide (70 mg, 0.112 mmol) dissolved in DMF (1 mL), 4-(2-chloroethyl)morpholine (34 mg, 0.225 mmol) and potassium carbonate (23 mg, 0.169 mmol) were added. The mixture was stirred at 40 degrees for 5 hours. The mixture was then diluted with H2O (10 mL) and the aqueous phase extracted with AcOEt (2×3 mL). The organic phase was washed with brine (10 ml), dried over Na2SO4 and the solvent was evaporated, to yield 22 mg of the title compound (yield 37%). MS/ESI+ 735.4 [MH]+; 1H NMR (400 MHz, acetone) δ ppm 8.01 (s, 2H), 7.53-7.62 (m, 1H), 7.28-7.39 (m, 1H), 7.09-7.24 (m, 3H), 6.99-7.07 (m, 2H), 6.93 (t, J=75.00 Hz, 1H), 5.97-6.21 (m, 1H), 5.10-5.21 (m, 1H), 4.76-4.84 (m, 1H), 4.36-4.56 (m, 2H), 3.89-4.12 (m, 2H), 3.61 (m, 4H), 3.35-3.51 (m, 1H), 3.15-3.27 (m, 1H), 2.76-2.80 (m, 2H), 2.52-2.65 (m, 4H), 1.25-1.39 (m, 1H), 0.55-0.68 (m, 2H), 0.37-0.52 (m, 2H).

reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(2,3-dioxo-3,4-dihydroquinoxalin-1(2H)-yl)acetoxy)-ethyl)pyridine 1-oxide | 0.112 mmol, 70 mg | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(C(NC2=CC=CC=C12)=O)=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C28H23Cl2F2N3O7
reactant | 4-(2-chloroethyl)morpholine | 0.225 mmol, 34 mg | ClCCN1CCOCC1 | C6H12ClNO
reactant | potassium carbonate | 0.169 mmol, 23 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | H2O | 10 mL | O | H2O
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(4-(2-morpholinoethyl)-2,3-dioxo-3,4-dihydroquinoxalin-1(2H)-yl)acetoxy)ethyl)pyridine 1-oxide | 22 mg, yield 37% | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(C(N(C2=CC=CC=C12)CCN1CCOCC1)=O)=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C34H34Cl2F2N4O8
